US06809094B2
4-[5-(4-TRIFLUOROMETHYL-PHENYL)-BENZOOXAZOL-2-YL]-1,4-DIAZA-BICYCLO[3.2.2]NONANE
The title compound was prepared according to the procedure in Example 44 using 4-trifluoromethyl-phenylboronic acid and 4-(5-bromo-benzooxazol-2-yl)-1,4-diaza-bicyclo[3.2.2]nonane in 54% yield: MS (Cl) m/z 388.4 (M+1).

reactant | 4-trifluoromethyl-phenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 4-(5-bromo-benzooxazol-2-yl)-1,4-diaza-bicyclo[3.2.2]nonane | BrC=1C=CC2=C(N=C(O2)N2CCN3CCC2CC3)C1 | C14H16BrN3O
product | 4-[5-(4-TRIFLUOROMETHYL-PHENYL)-BENZOOXAZOL-2-YL]-1,4-DIAZA-BICYCLO[3.2.2]NONANE | 54% yield | FC(C1=CC=C(C=C1)C=1C=CC2=C(N=C(O2)N2CCN3CCC2CC3)C1)(F)F | C21H20F3N3O
